US09428528B2
Preparation of 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(5-(methylsulfonamidomethyl)-1,3,4-thiadiazol-2-yl)phenyl)propan-2-yl)acetamide
Following the general procedure of Example 9—Step 2 and making non-critical variations but using N-((5-bromo-1,3,4-thiadiazol-2-yl)methyl)methanesulfonamide and 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethyl-stannyl)phenyl)-propan-2-yl)acetamide the title compound is obtained (11.8 mg): 1H NMR (400 MHz, DMSO-d6) 3.0 (s, 3H), 4.2-4.4 (m, 1.5H), 4.45 (t, 1H), 4.55-4.6 (m, 0.5H), 4.65 (d, 2H), 4.7-4.75 (m, 0.5H), 4.95 (bt, 0.5H), 6.1 (d, 1H), 6.5 (s, 1H), 7.5 (d, 2H), 7.95 (d, 2H), 8.15 (t, 1H), 8.6 (d, 1H). m/z (CI) M+H 471.

reactant | N-((5-bromo-1,3,4-thiadiazol-2-yl)methyl)methanesulfonamide | BrC1=NN=C(S1)CNS(=O)(=O)C | C4H6BrN3O2S2
reactant | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethyl-stannyl)phenyl)-propan-2-yl)acetamide | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)[Sn](C)(C)C)O)CF)Cl
product | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(5-(methylsulfonamidomethyl)-1,3,4-thiadiazol-2-yl)phenyl)propan-2-yl)acetamide | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)C=1SC(=NN1)CNS(=O)(=O)C)O)CF)Cl | C15H17Cl2FN4O4S2
